US06627111B2
3-methoxytriphenylamine was prepared by a phase transfer variant of the Ullmann coupling procedure (S. Gauthier and J. M. J. Fréchet, Synthesis, 1987, 1331) in which 37.34 g m-Anisidine, 142.47 g iodobenzene, 74.93 g copper powder, 2.20 g 18-crown-6 and 320.8 g anhydrous potassium carbonate in 500 ml phenyl ether were placed into a 1 liter three necked round bottom flask equipped with overhead stirrer, reflux condenser, nitrogen inlet, thermowell, and heating mantle and heated at reflux overnight. The solids were removed by filtration and the solvents by vacuum distillation. The resulting brown oil is used in step 2 below.

reactant | m-Anisidine | 37.34 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | iodobenzene | 142.47 g | IC1=CC=CC=C1 | C6H5I
reactant | 18-crown-6 | 2.20 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 320.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | phenyl ether | 500 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | copper | 74.93 g | [Cu] | Cu
product | 3-methoxytriphenylamine | COC1=CC=CC(=C1)N(C2=CC=CC=C2)C3=CC=CC=C3 | C19H17NO
